US05998433
d) Synthesis of 5-benzyl-2-dimethylaminomethyl-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one hydrochloride
5-Benzyl-2-dimethylaminomethyl-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one 0.110 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated; the resulting solid was washed with diethyl ether to yield the desired product.

reactant | 5-Benzyl-2-dimethylaminomethyl-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one | 0.110 g | C(C1=CC=CC=C1)N1C(C2=C(CC1)OC(=C2)CN(C)C)=O | C17H20N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 5-benzyl-2-dimethylaminomethyl-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one hydrochloride | Cl.C(C1=CC=CC=C1)N1C(C2=C(CC1)OC(=C2)CN(C)C)=O | InChI=1S/C17H20N2O2.ClH/c1-18(2)12-14-10-15-16(21-14)8-9-19(17(15)20)11-13-6-4-3-5-7-13;/h3-7,10H,8-9,11-12H2,1-2H3;1H
